US07576072B2
Step G: Preparation of 7-fluoro-6-(2-fluorophenylamino)-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester:
A mixture of 6-bromo-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester (1.00 equivalent), 2-fluoroaniline (1.00 equivalent), Pd(OAc)2 (0.10 equivalents), rac-BINAP (0.15 equivalents), and Cs2CO3 (1.50 equivalents) in toluene in a sealed tube is stirred at 80° C. for 16 hours. The reaction mixture is cooled to room temperature and diluted with EtOAc. The resulting precipitate is filtered off and washed with EtOAc. The filtrate is diluted with EtOAc and washed with water. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that is purified by trituration or flash column chromatography to afford the desired product.

reactant | 6-bromo-7-fluoro-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester | 1.00 equivalent | COC(=O)C1=C(C(=C2C(=N1)N(C=N2)C)F)Br | C9H7BrFN3O2
reactant | 2-fluoroaniline | 1.00 equivalent | FC1=C(N)C=CC=C1 | C6H6FN
reactant | rac-BINAP | 0.15 equivalents | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 1.50 equivalents | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.10 equivalents | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-fluoro-6-(2-fluorophenylamino)-3-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylic acid methyl ester | COC(=O)C1=C(C(=C2C(=N1)N(C=N2)C)F)NC2=C(C=CC=C2)F | C15H12F2N4O2
